US04362744
In the manner of Example 4, the reaction of 1.00 g (0.004 mole) of trans-3-[(4-fluorophenyl)methyl]-1-indanol (96% trans, 4% cis) and 0.93 g (0.004 mole) of cis-3-(2,2-dichloroethenyl)-2,2-dimethylcyclopropanecarbonyl chloride in the presence of 0.32 g (0.004 mole) of pyridine and 50 mL of toluene gave 1.42 g of trans-3-[(4-fluorophenyl)methyl]-1-indanyl cis-3-(2,2-dichloroethenyl)-2,2-dimethylcyclopropanecarboxylate. The ir and nmr spectra were consistent with the proposed structure.

reactant | trans-3-[(4-fluorophenyl)methyl]-1-indanol | 0.004 mole, 1.00 g | FC1=CC=C(C=C1)C[C@@H]1C[C@H](C2=CC=CC=C12)O | C16H15FO
reactant | cis-3-(2,2-dichloroethenyl)-2,2-dimethylcyclopropanecarbonyl chloride | 0.004 mole, 0.93 g | ClC(=C[C@H]1C([C@H]1C(=O)Cl)(C)C)Cl | C8H9Cl3O
reactant | pyridine | 0.004 mole, 0.32 g | N1=CC=CC=C1 | C5H5N
solvent | toluene | 50 mL | C1(=CC=CC=C1)C | C7H8
product | trans-3-[(4-fluorophenyl)methyl]-1-indanyl cis-3-(2,2-dichloroethenyl)-2,2-dimethylcyclopropanecarboxylate | 1.42 g | ClC(=C[C@H]1C([C@H]1C(=O)O[C@@H]1C[C@H](C2=CC=CC=C12)CC1=CC=C(C=C1)F)(C)C)Cl | C24H23Cl2FO2
